US03979387
4,5-dihydro-4,6-dimethyltetrazolo[1,5-a]quinoxaline
A solution of 1.5 g. of 4,6-dimethyltetrazolo[1,5-a]quinoxaline in 200 ml. of ethanol was hydrogenated as above at about 3 atmospheres over 150 mg. of 5 percent palladized charcoal for 17 hours. The reaction mixture was then filtered, and the filtrate was evaporated to dryness. The residue was taken up in ethyl ether and chromatographed on a silica gel column with ethyl ether as the eluting solvent. The product-containing fractions were evaporated to dryness and the residue was recrystallized from ethanol to recover 4,5-dihydro-4,6-dimethyltetrazolo[1,5-a]quinoxaline, m.p. 159°-61°C., in 81 percent yield. The product was identified by NMR analysis and by elemental analysis with the following results.

reactant | 4,6-dimethyltetrazolo[1,5-a]quinoxaline | CC=1C=2N(C3=CC=CC(=C3N1)C)N=NN2 | C10H9N5
reactant | charcoal | C | CH4
solvent | ethanol | C(C)O | C2H6O
product | 4,5-dihydro-4,6-dimethyltetrazolo[1,5-a]quinoxaline | 81 percent yield | CC1C=2N(C3=CC=CC(=C3N1)C)N=NN2 | C10H11N5
